US05260318
18.0 g (76.8 mmol) of the product from Preparation 2 are dissolved in 300 ml of dimethyl sulfoxide/toluene (1:2) and, successively, 6.2 ml (76.8 mmol) of pyridine, 50.0 g (240 mmol) of dicyclohexylcarbodiimide and, at 0° C., dropwise 3.0 ml (38.4 mmol) of trifluoroacetic acid are added. The mixture is stirred at room temperature for 16 h and then poured into water and extracted with ethyl acetate. The organic phase is dried and concentrated under reduced pressure. The residue is purified by chromatography (eluent: toluene/acetone 1:1). 13.2 g of 1-(4-acetaminophenyl)-4-piperidone are obtained Melting point 158-159° C.

reactant | pyridine | 76.8 mmol, 6.2 ml | N1=CC=CC=C1 | C5H5N
reactant | dicyclohexylcarbodiimide | 240 mmol, 50.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | trifluoroacetic acid | 38.4 mmol, 3.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | O | H2O
solvent | dimethyl sulfoxide toluene | 300 ml | CS(=O)C.C1(=CC=CC=C1)C
product | 1-(4-acetaminophenyl)-4-piperidone | 13.2 g | N(C(=O)C)C1=CC=C(C=C1)N1CCC(CC1)=O | C13H16N2O2
